US03946001
10.08 g. (60 mM) of α-mercaptophenylacetic acid and 6.6 g. (60 mM) of triethylamine are dissolved in 50 ml. of tetrahydrofuran and 3.42 g. (60 mM) of methylisocyanate dissolved in 20 ml. of tetrahydrofuran are added dropwise with stirring. After stirring for 2 hours, the solvent is drawn off in a vacuum and the oily residue is dissolved in water. The mixture is then acidified with 2N hydrochloric acid and extracted three times each with 20 ml. of ether. After drying off the ether, 10.5 g. of white crystalline DL-[(methylcarbamoyl)thio]phenylacetic acid are obtained, which is recrystallized from ether/petroleum ether, m.p. 128°-129°.

reactant | α-mercaptophenylacetic acid | 60 mM | SC(C(=O)O)C1=CC=CC=C1 | C8H8O2S
reactant | triethylamine | 60 mM | C(C)N(CC)CC | C6H15N
reactant | methylisocyanate | 60 mM | CN=C=O | C2H3NO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [(methylcarbamoyl)thio]phenylacetic acid | CNC(=O)SC(C(=O)O)C1=CC=CC=C1 | C10H11NO3S
